US04326055
In a manner analogous to that described in Example 1, from [1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethyl]-triphenylphosphonium bromide and 4-acetyl-benzaldehyde there can be obtained 4'-[(E)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]-acetophenone of melting point 148°-149° C.

reactant | [1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethyl]-triphenylphosphonium bromide | [Br-].CC1(C=2C=CC(=CC2C(CC1)(C)C)C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | 4-acetyl-benzaldehyde | C(C)(=O)C1=CC=C(C=O)C=C1 | C9H8O2
product | 4'-[(E)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]-acetophenone | CC1(C=2C=CC(=CC2C(CC1)(C)C)/C(=C/C1=CC=C(C=C1)C(C)=O)/C)C | C25H30O
